US04265814
In a mixture of 1 ml triethylamine and 50 ml of dimethylformamide was dissolved 100 mg of maytansinol and, while the solution was stirred under ice-cooling, 50 μl of isobutyryl chloride was added dropwise. The mixture was stirred under ice-cooling for 30 minutes and then, at room temperature for 2.5 hours, after which it was distilled under reduced pressure. The residue was dissolved in 10 ml of dichloromethane, washed with water and dried (Na2SO4). The solvent was distilled off under reduced pressure and the residue was chromatographed and recrystallized as in Reference Example 1. By the above procedure there was obtained 19.4 mg of Ansamitocin P-3.

reactant | maytansinol | 100 mg | CC1C2CC(C(/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)CC(C4(C1O4)C)O)C)\C)OC)(NC(=O)O2)O | C28H37ClN2O8
reactant | isobutyryl chloride | 50 μl | C(C(C)C)(=O)Cl | C4H7ClO
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ansamitocin P-3 | 19.4 mg | C[C@@H]1[C@@H]2C[C@]([C@@H](/C=C/C=C(/CC3=CC(=C(C(=C3)OC)Cl)N(C(=O)C[C@@H]([C@]4([C@@H]1O4)C)OC(=O)C(C)C)C)\C)OC)(NC(=O)O2)O | C32H43ClN2O9
